Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS ___:  
 Mr. ___ is a ___ man with a history of hypertension, who 
presents for evaluation of syncope. Earlier today, he had just 
completed his usual workout, and walked 2 miles on the treadmill 
at the gym. He was sitting on a bench after, then got up to 
leave. After walking ___ yards, he felt very dizzy, and passed 
out. The next thing he remembers is waking up in the ambulance. 
No confusion from that point on. Denies any lower extremity 
swelling or pain, history of thromboembolism, other recent 
trauma immobility or surgery, cough, hemoptysis. He denies any 
chest pain or shortness of breath prior to the syncope. He 
struck his face when he syncopized. His only other pain 
complaint is his right knee where he is a small abrasion. Right 
now his dizziness is completely resolved. No prior episodes.  
 Of note, last night, he felt palpitations around midnight that 
lasted for a few hours, then resolved. No chest pain or 
pressure. No palpitations during the syncopal episode or 
currently.  
 - In the ED, initial vitals: 98 58 143/85 20 100% RA  
 - Labs were significant for trop<0.01  
 - Imaging showed CT head & C-spine with no acute fracture. CXR 
no acute process. No right knee fracture  
 - In the ED, pt received:  
 IM Tetanus-DiphTox-Acellular Pertuss (Adacel) .5 mL  
 ___ 11:20 PO Thiamine 100 mg  
 ___ 11:20 PO Multivitamins 1 TAB  
 ___ 11:20 PO FoLIC Acid 1 mg  
 ___ 17:09 PO Aspirin 324 mg  
 - He was evaluated by trauma surgery, who noted an abrasion 
over his left forehead & malar eminence. Recommended Spine 
evaluation  
 - Spine saw the patient, and cleared patient -- no need for MRI 
or C- collar. Recommended syncope workup.  
 - Vitals prior to transfer: 98.1 65 160/85 14 96% RA  

 Currently, he feels great. He has a mild headache, but no 
facial pain or knee pain. He feels at his baseline.  

 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
 - HTN  
 - GERD  
 - heart murmur  
 - prostate cancer s/p therapy ___ years ago  

 
Social History:
___
Family History:
  FAMILY HISTORY: Father with MI at early age (___) 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 97.8 PO 186 / 93 L Lying 73 20 95 Ra  
GEN: well appearing, non toxic, sitting in bed, NAD  
HEENT: large ecchymoses over left eye, PERRL, mmm  
NECK: no JVD, supple  
PULM: normal work of breathing on room air, lungs clear 
bilaterally  
CAR: rrr, ___ systolic murmur loudest at LUSB nonradiating to 
carotids  
ABD: soft, NT/ND, normal bs  
EXTREM: warm, 2+ DP pulses, no edema  
NEURO: CN II-XII intact, A&Ox3, ___ strength in b/l UE & ___, 
sensation intact

DISCHARGE PHYSICAL EXAM:  
PHYSICAL EXAM:  
VS: 157/72 69 94%RA  
GEN: well appearing, non toxic, sitting in bed, NAD  
HEENT: large ecchymoses over left eye, PERRL, mmm  
NECK: no JVD, supple  
PULM: normal work of breathing on room air, lungs clear 
bilaterally  
CAR: rrr, ___ systolic murmur loudest at LUSB nonradiating to 
carotids  
ABD: soft, NT/ND, normal bs  
EXTREM: warm, 2+ DP pulses, no edema  
NEURO: CN II-XII intact, A&Ox3, ___ strength in b/l UE & ___, 
sensation intact  

 
Pertinent Results:
ADMISSION LABS:
___ 09:45AM BLOOD WBC-5.2 RBC-5.36 Hgb-16.9 Hct-47.6 MCV-89 
MCH-31.5 MCHC-35.5 RDW-12.6 RDWSD-41.1 Plt ___
___ 09:45AM BLOOD Neuts-70.3 Lymphs-17.7* Monos-9.6 Eos-1.0 
Baso-0.8 Im ___ AbsNeut-3.66 AbsLymp-0.92* AbsMono-0.50 
AbsEos-0.05 AbsBaso-0.04
___ 09:45AM BLOOD ___ PTT-24.7* ___
___ 09:45AM BLOOD Glucose-114* UreaN-16 Creat-1.1 Na-135 
K-5.3* Cl-100 HCO3-24 AnGap-16
___ 09:45AM BLOOD cTropnT-<0.01
___ 05:00PM BLOOD cTropnT-<0.01
___ 09:45AM BLOOD Calcium-9.4 Phos-3.0 Mg-1.9

DISCHARGE LABS:
___ 07:35AM BLOOD WBC-4.8 RBC-5.23 Hgb-16.8 Hct-46.5 MCV-89 
MCH-32.1* MCHC-36.1 RDW-12.8 RDWSD-41.8 Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD Glucose-131* UreaN-17 Creat-1.0 Na-136 
K-3.8 Cl-98 HCO3-24 AnGap-18
___ 07:35AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.0

IMAGING: 
  
CT C-SPINE ___ IMPRESSION:   
1. No acute fracture. 
2. Mild anterolisthesis of C3 on C4 and C4 on C5, likely 
degenerative, however no prior exams are available for 
comparison. Consider further evaluation with MRI if there is 
clinical concern for ligamentous injury. 

CT HEAD ___ IMPRESSION:
1. No acute fracture or acute intracranial hemorrhage. 
2. Soft tissue swelling around the lateral aspect of the left 
orbit. 

CHEST XRAY ___ IMPRESSION:  
No acute cardiopulmonary process. 

XRAY KNEE ___ IMPRESSION: 
No acute fracture or dislocation.  Degenerative changes. 
 

MICROBIOLOGY: UCx pending

 
Brief Hospital Course:
Mr. ___ is a ___ male with a history of hypertension 
who presents for evaluation of syncope.

#Syncope: Pt was transported to the ED after he stood up from a 
bench after going to the gym, felt dizzy, and fell. This was 
most likely due to orthostatic hypotension. His orthostatic BPs 
on hospital day 1 were 160/80 (lying) --> 118/70 (standing). He 
was given 1L intravenous fluids, and his orthostatic BPs were 
reassessed: 152/78 HR=77 --> 157/72 HR=69. His negative head CT 
was also reassuring against a neurologic etiology of his 
symptoms. He did note palpatations the night before this event, 
though he did not note any palpitations at the time of or just 
prior to falling. He was kept on telemetry overnight with no 
significant events or arrhythmias. He does have a soft, ___ 
systolic murmur on exam, though unlikely that this fall was due 
to severe aortic stenosis given and overall soft murmur without 
significant history of AS. Very low suspicion of PE given that 
pt does not smoke and has not had significant prolonged period 
of immobilization. He was monitored overnight with fluids and 
had no subsequent syncopal events while hospitalized. On day of 
discharge he was ambulatory, with VSS. 
Patient discharged after discussion with outpatient cardiology 
team to reach out for ___ Heart on ___ at 1pm.

We stopped his amlodipine and atenolol 25mg QHS for reassessment 
with his cardiologist and to be restarted if needed.

TRANSITIONAL ISSUES:
====================
Medications we stopped:
Amlodipine 5mg PO daily
Atenolol 25mg PO QHS

Medications we started:
None

Medications we changed:
None

Transitional issues:
[]f/u orthostatic BPs
[]f/u plan for ___ of Heart given pt with palpitations the day 
before he fell. Outpatient cardiologist requested patient come 
in day after discharge ___ for placement of this.
[] We stopped his amlodipine and atenolol 25mg QHS for 
reassessment with his cardiologist and to be restarted if 
needed.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Ranitidine 150 mg PO BID 
2. amLODIPine 5 mg PO DAILY 
3. Lisinopril 20 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Atenolol 50 mg PO DAILY 
6. Atorvastatin 10 mg PO QPM 
7. Tamsulosin 0.4 mg PO QHS 
8. Atenolol 25 mg PO QHS 
9. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Bacitracin Ointment 1 Appl TP QID:PRN scar  
3.  Aspirin 81 mg PO DAILY  
4.  Atenolol 50 mg PO DAILY  
5.  Atorvastatin 10 mg PO QPM  
6.  Lisinopril 20 mg PO BID  
7.  Pantoprazole 40 mg PO Q24H  
8.  Ranitidine 150 mg PO BID  
9.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
orthostatic hypotension

Secondary diagnosis:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 
You were admitted to ___ 
(___) due to a fall.

While here, you had a CT scan and were seen by the surgery team. 
You did not require surgery and did not have a head bleed.

We felt that your fall was due to temporary low blood pressures 
that were precipitated by dehydration. We monitored you 
overnight and did not find that you had any heart rhythm 
abnormalities, or concerning lab values to cause a fall. We gave 
you intravenous fluids, and your blood pressures stabilized.

Please follow up with your outpatient providers and all your 
scheduled appointments. Thank you for allowing us to be involved 
in your care. 
 
Sincerely,  
Your ___ Care Team
 
Followup Instructions:
___